US06417212B1
B. 2-(4-{2-[2-(4′-Formylbiphenyl-3-yl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid
A stirred solution of 2-(4-{2-[2-(4′-formylbiphenyl-3-yl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methyl propionic acid ethyl ester (0.711 mmol) in ethanol (8.9 mL) was treated with NaOH(aq) (0.854 mL of a 5M solution), and heated at reflux for 1 h. The hot solution was acidified to pH 1 with 1M HCl (6 mL). The mixture was cooled to ambient temperature, then further cooled to 0° C. before filtering the product. Following washing with H2O, the product was dried under vacuum at 50° C. to yield a white, crystalline solid: Rf 0.14 in 6:4 ethyl acetate:hexanes; MS (EI) 486.1 (M+H)+.

reactant | 2-(4-{2-[2-(4′-formylbiphenyl-3-yl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methyl propionic acid ethyl ester | 0.711 mmol | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C=1C=C(C=CC1)C1=CC=C(C=C1)C=O)=O | C31H31NO6
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 1M, 6 mL | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 8.9 mL | C(C)O | C2H6O
product | 2-(4-{2-[2-(4′-Formylbiphenyl-3-yl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid | C(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C=1OC(=C(N1)CCOC1=CC=C(OC(C(=O)O)(C)C)C=C1)C | C29H27NO6
